US09388161B2
(2S)-Methyl 5-(4-fluorophenoxy)-6-(1-(3-methoxy-1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate was synthesized from (2S)-methyl 5-(4-fluorophenoxy)-6-(1-(3-methoxypiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate and formaldehyde according to the procedure outlined above for Example 40. 1H NMR (400 MHz, CD3OD) δ ppm 1.16 (d, J=6.80 Hz, 3H), 1.50-1.65 (m, 1H), 1.98-2.11 (m, 1H), 2.15-2.22 (m, 1H), 2.40-2.70 (m, 3H), 2.78-3.01 (m, 5H), 3.02-3.18 (m, 1H), 3.42-3.85 (m, 8H), 4.15-4.25 (m, 1H), 4.55-4.72 (m, 1H), 6.72-6.80 (m, 2H), 6.90-7.01 (m, 2H), 7.50-7.62 (m, 2H), 7.80-8.10 (m, 2H). MS (ESI, pos. ion) m/z 509 [M+H]+.

reactant | (2S)-methyl 5-(4-fluorophenoxy)-6-(1-(3-methoxypiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | FC1=CC=C(OC2=C3CC[C@@H](N(C3=CC=C2C=2C=NN(C2)C2C(CNCC2)OC)C(=O)OC)C)C=C1 | C27H31FN4O4
reactant | formaldehyde | C=O | CH2O
product | (2S)-Methyl 5-(4-fluorophenoxy)-6-(1-(3-methoxy-1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | FC1=CC=C(OC2=C3CC[C@@H](N(C3=CC=C2C=2C=NN(C2)C2C(CN(CC2)C)OC)C(=O)OC)C)C=C1 | C28H33FN4O4
